US03956494
A mixture of 2-dimethylamino-2-(2-pyridyl)thioacetamide and 40% aqueous solution of cyclopropylamine is heated at reflux for 45 minutes. The mixture is cooled and water is added. The mixture is then extracted with chloroform and the extracts are dried, concentrated and the residue is recrystallized to give N-cyclopropyl-2-dimethylamino-2-(2-pyridyl)thioacetamide.

reactant | 2-dimethylamino-2-(2-pyridyl)thioacetamide | CN(C(C(=S)N)C1=NC=CC=C1)C | C9H13N3S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | water | O | H2O
product | N-cyclopropyl-2-dimethylamino-2-(2-pyridyl)thioacetamide | C1(CC1)NC(C(C1=NC=CC=C1)N(C)C)=S | C12H17N3S
